US05959107
5-Isoquinolinethiol 500 mg (3.1 mmol) was dissolved in DMF 20 ml, 5-chloro-1-ethyl-2-methyl-6-nitro-1H-benzo[d]imidazole 910 mg (3.1 mmol) and potassium carbonate 1.29 g (9.3 mmol) were added, and the mixture was stirred for 3 hours at 130° C. The reaction mixture was concentrated under reduced pressure, the residue was crystallized with ethyl acetate, and 1-ethyl-5-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-1H-benzo[d]imidazole 480 mg (42.3%) was obtained.

reactant | 5-Isoquinolinethiol | 3.1 mmol, 500 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | 5-chloro-1-ethyl-2-methyl-6-nitro-1H-benzo[d]imidazole | 3.1 mmol, 910 mg | ClC1=CC2=C(N(C(=N2)C)CC)C=C1[N+](=O)[O-] | C10H10ClN3O2
reactant | potassium carbonate | 9.3 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-5-(5-isoquinolylsulfanyl)-2-methyl-6-nitro-1H-benzo[d]imidazole | 480 mg, 42.3% | C(C)N1C(=NC2=C1C=C(C(=C2)SC2=C1C=CN=CC1=CC=C2)[N+](=O)[O-])C | C19H16N4O2S
